US06867198B2
3-(1H-Indol-3-yl)-4-(5,5-dioxo-4,5-dihydro-3H-5-thia-2a-aza-acenaphthylen-1-yl)pyrrole-2,5-dione
To a solution of 3-(1H-indol-3-yl)-4-(4,5-dihydro-3H-5-thia-2a-aza-acenaphthylen-1-yl)pyrrole-2,5-dione (0.50 g, 1.3 mmol) in dichloromethane was added meta-chloroperbenzoic acid (0.671 g, 3.89 mmol) at 0° C. After 24 hrs at room temperature, a saturated solution of sodium bisulfite and sodium bicarbonate was added, and the mixture was extracted with ethyl acetate. The organic layer was subjected to silica gel chromatography, eluting with ethyl acetate/hexane (4:1) to give 0.120 g (23.8%) of the title compound.

reactant | 3-(1H-indol-3-yl)-4-(4,5-dihydro-3H-5-thia-2a-aza-acenaphthylen-1-yl)pyrrole-2,5-dione | 1.3 mmol, 0.50 g | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN2CCSC3=CC=CC1=C23)=O)=O | C22H15N3O2S
reactant | meta-chloroperbenzoic acid | 3.89 mmol, 0.671 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(1H-Indol-3-yl)-4-(5,5-dioxo-4,5-dihydro-3H-5-thia-2a-aza-acenaphthylen-1-yl)pyrrole-2,5-dione | 0.120 g, 23.8% | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN2CCS(C3=CC=CC1=C23)(=O)=O)=O)=O | C22H15N3O4S
